US08022206B2
1-(4-Fluorophenyl)-2-oxo-1,2-dihydropyridine-3-carboxylic acid (4-bromo-methylphenyl)amide
The mixture of 1-(4-fluorophenyl)-2-oxo-1,2-dihydropyridine-3-carboxylic acid p-tolylamide (183 mg, 0.482 mmol), NBS (108 mg, 0.603 mmol) and 2,2′-Azo-bis-isobutyronitrile (8.08 mg, 0.0482 mmol) in carbon tetrachloride (5 ml, 50 mmol) was heated at 80° C. under an atmosphere of nitrogen for 24 h. After that time, the mixture was filtered to give the title compound as a beige solid that was used for further reaction without purification. MS (ES+): m/z 400.92/402.96 [MH+]. HPLC: tR=3.66 min (polar—5 min, ZQ3).

reactant | 1-(4-fluorophenyl)-2-oxo-1,2-dihydropyridine-3-carboxylic acid p-tolylamide | 0.482 mmol, 183 mg | C1(=CC=C(C=C1)NC(=O)C=1C(N(C=CC1)C1=CC=C(C=C1)F)=O)C | C19H15FN2O2
reactant | NBS | 0.603 mmol, 108 mg | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | 2,2′-Azo-bis-isobutyronitrile | 0.0482 mmol, 8.08 mg | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
reactant | carbon tetrachloride | 50 mmol, 5 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 1-(4-Fluorophenyl)-2-oxo-1,2-dihydropyridine-3-carboxylic acid (4-bromo-methylphenyl)amide | BrC1=CC(=C(C=C1)NC(=O)C=1C(N(C=CC1)C1=CC=C(C=C1)F)=O)C | C19H14BrFN2O2
